US09034899B2
Following the procedure in Example 24, 4-(3,4-dichlorophenyl)-1,2,3,4-tetrahydroisoquinolin-7-yl trifluoromethanesulfonate (225 mg, 0.53 mmol), 3,5-dimethylisoxazol-4-ylboronic acid (114 mg, 0.8 mmol), cesium carbonate (521 mg, 1.6 mmol) and dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) (22 mg, 0.03 mmol) in N,N-dimethylformamide (4 mL) and water (2 mL) gave 4-(4-(3,4-dichlorophenyl)-1,2,3,4-tetrahydroisoquinolin-7-yl)-3,5-dimethylisoxazole (95 mg, 48%) as a brown oil: 1H NMR (CD3OD, 500 MHz) δ 7.46 (d, J=8.3 Hz, 1H), 7.34 (d, J=2.0 Hz, 1H), 7.13-7.08 (m, 3H), 6.92 (d, J=8.0 Hz, 1H), 4.24-4.05 (m, 3H), 3.39 (dd, J=12.9, 5.7 Hz, 1H), 3.01 (dd, J=12.9, 8.3 Hz, 1H), 2.39 (s, 3H), 2.24 (s, 3H); ESI MS m/z 373 [M+H]+.

reactant | 4-(3,4-dichlorophenyl)-1,2,3,4-tetrahydroisoquinolin-7-yl trifluoromethanesulfonate | 0.53 mmol, 225 mg | FC(S(=O)(=O)OC1=CC=C2C(CNCC2=C1)C1=CC(=C(C=C1)Cl)Cl)(F)F | C16H12Cl2F3NO3S
reactant | 3,5-dimethylisoxazol-4-ylboronic acid | 0.8 mmol, 114 mg | CC1=NOC(=C1B(O)O)C | C5H8BNO3
reactant | cesium carbonate | 1.6 mmol, 521 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
solvent | water | 2 mL | O | H2O
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) | 0.03 mmol, 22 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4-(4-(3,4-dichlorophenyl)-1,2,3,4-tetrahydroisoquinolin-7-yl)-3,5-dimethylisoxazole | 95 mg, 48% | ClC=1C=C(C=CC1Cl)C1CNCC2=CC(=CC=C12)C=1C(=NOC1C)C | C20H18Cl2N2O
